US06849738B2
Acetonitrile (240 ml), methanol (150 ml) and 28% sodium methoxide (15.24 g, 78.97 mmol) were added to ethyl 4-methyl-5-(4-nitrophenyl)-2-(3-phenylureido)thiophene-3-carboxylate (30.00 g, 70.51 mmol), and the mixture was stirred for 1 hour while refluxing under heating. 2,6-difluorobenzyl bromide (17.52 g, 84.61 mmol) was dissolved in acetonitrile (60 ml), and the solution was added to the previous reaction mixture under refluxing. After refluxing under heating for 5 hours, 28% sodium methoxide (1.36 g, 7.05 mmol) was added thereto under reflux, and the mixture was stirred for 1 hour. The reaction mixture was cooled to room temperature, water (150 ml) was added dropwise, which was stirred at room temperature for 1 hour. The crystals were filtered and washed with water (240 ml) and diisopropyl ether/ethanol=9/1 (240 ml). The resulting crystals were suspended in ethyl acetate (600 ml), and the suspension was stirred for 1 hour under reflux. The mixture was cooled to room temperature and, after stirred for 1 hour, the crystals were filtered, washed with ethyl acetate (60 ml) and dried under vacuum at 60° C. to give 1-(2,6-difluorobenzyl)-5-methyl-6-(4-nitrophenyl)-3-phenylthieno[2,3-d]pyrimidine-2,4(1H, 3H)-dione (31.4 g, 62.12 mmol, 88.1%).

reactant | methanol | 150 ml | CO | CH4O
reactant | sodium methoxide | 78.97 mmol, 15.24 g | C[O-].[Na+]
reactant | ethyl 4-methyl-5-(4-nitrophenyl)-2-(3-phenylureido)thiophene-3-carboxylate | 70.51 mmol, 30.00 g | CC=1C(=C(SC1C1=CC=C(C=C1)[N+](=O)[O-])NC(=O)NC1=CC=CC=C1)C(=O)OCC | C21H19N3O5S
reactant | 2,6-difluorobenzyl bromide | 84.61 mmol, 17.52 g | FC1=C(CBr)C(=CC=C1)F | C7H5BrF2
reactant | sodium methoxide | 7.05 mmol, 1.36 g | C[O-].[Na+]
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
solvent | Acetonitrile | 240 ml | C(C)#N | C2H3N
solvent | water | 150 ml | O | H2O
product | 1-(2,6-difluorobenzyl)-5-methyl-6-(4-nitrophenyl)-3-phenylthieno[2,3-d]pyrimidine-2,4(1H, 3H)-dione | 62.12 mmol, 31.4 g, 88.1% | FC1=C(CN2C(N(C(C3=C2SC(=C3C)C3=CC=C(C=C3)[N+](=O)[O-])=O)C3=CC=CC=C3)=O)C(=CC=C1)F | C26H17F2N3O4S
